US08030304B2
3-[4-Bromo-2-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiazol-5-yl]-2,5-dimethyl-7-(1-propyl-butyl)-pyrazolo[1,5-a]pyrimidine, hydrochloride
Dissolve 3-[4-bromo-2-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiazol-5-yl]-2,5-dimethyl-7-(1-propyl-butyl)-pyrazolo[1,5-a]pyrimidine (750 mg, 1.54 mmol) in acetone (5 mL) and add 1 M HCl in diethyl ether (1.84 mL, 1.84 mmol). Stir the mixture at room temperature for 3 h and concentrate in vacuo. Dissolve the residue in diethyl ether/hexane=1/1 (5 mL) and crystallize the desired HCl salt (526 mg, 65%). ES/MS m/z (81Br) 490 (M+1)+; 1H-NMR(CDCl3): 8.20 (s, 1H), 6.82 (s, 1H), 4.21 (s, 3H), 3.64 (m, 1H), 2.49 (m, 3H), 2.44 (s, 3H), 1.75 (m, 4H), 1.96(m, 4H), 0.81 (m, 6H).

reactant | 3-[4-bromo-2-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiazol-5-yl]-2,5-dimethyl-7-(1-propyl-butyl)-pyrazolo[1,5-a]pyrimidine | 1.54 mmol, 750 mg | BrC=1N=C(SC1C=1C(=NN2C1N=C(C=C2C(CCC)CCC)C)C)C=2N(N=CN2)C | C21H26BrN7S
reactant | HCl | 1 M | Cl | ClH
reactant | diethyl ether | 1.84 mmol, 1.84 mL | C(C)OCC | C4H10O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 3-[4-Bromo-2-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiazol-5-yl]-2,5-dimethyl-7-(1-propyl-butyl)-pyrazolo[1,5-a]pyrimidine, hydrochloride | Cl.BrC=1N=C(SC1C=1C(=NN2C1N=C(C=C2C(CCC)CCC)C)C)C=2N(N=CN2)C | InChI=1S/C21H26BrN7S.ClH/c1-6-8-14(9-7-2)15-10-12(3)25-19-16(13(4)27-29(15)19)17-18(22)26-21(30-17)20-23-11-24-28(20)5;/h10-11,14H,6-9H2,1-5H3;1H
